US05780472
1-[(2-methoxy-5,6,7,8-tetrahydroisoquinolin-3-yl)aminocarbonyl]-4-(3-chlorophenyl)piperazine
Phenyl-N-(2-methoxy-5,6,7,8-tetrahydroisoquinolin-3-yl)carbamate and 1-(3-chlorophenyl)piperazine were reacted by the same way with the example 1 to obtain the titled compound.

reactant | Phenyl-N-(2-methoxy-5,6,7,8-tetrahydroisoquinolin-3-yl)carbamate | C1(=CC=CC=C1)OC(NC=1N(CC=2CCCCC2C1)OC)=O | C17H20N2O3
reactant | 1-(3-chlorophenyl)piperazine | ClC=1C=C(C=CC1)N1CCNCC1 | C10H13ClN2
product | 1-[(2-methoxy-5,6,7,8-tetrahydroisoquinolin-3-yl)aminocarbonyl]-4-(3-chlorophenyl)piperazine | yield: 69% | CON1CC=2CCCCC2C=C1NC(=O)N1CCN(CC1)C1=CC(=CC=C1)Cl | C21H27ClN4O2
